US08049013B2
Step 2: 2-(4-Chloro-phenyl)-4-ethoxycarbonylmethyl-thiazole-5-carboxylic acid ethyl ester
Dissolve 2-chloro-3-oxo-pentanedioic acid diethyl ester (1370 g, 5.50 mol) in EtOH (8.5 L) and add 4-chloro-thiobenzamide (885 g, 5.00 mol). Heat the mixture to 75° C. and stir mechanically for 5.5 h. Cool the mixture to 45° C., then slowly add water (3.5 L) and stir overnight. Collect the yellow precipitate and wash the solids with 50% EtOH/water (4 L). Dry in an oven to obtain 1505 g (81%) of the title compound. 1H NMR (CDCl3, 500 MHz): δ 7.90 (d, 2H, J=7.4), 7.41 (d, 2H, J=7.4), 4.34 (q, 2H, J=6.8), 4.24 (s, 2H), 4.19 (q, 2H, J=7.4), 1.36 (t, 3H, J=6.8), 1.27 (t, 3H, J=6.8).

reactant | 2-chloro-3-oxo-pentanedioic acid diethyl ester | 5.50 mol, 1370 g | C(C)OC(C(C(CC(=O)OCC)=O)Cl)=O | C9H13ClO5
reactant | 4-chloro-thiobenzamide | 5.00 mol, 885 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
reactant | water | 3.5 L | O | H2O
solvent | EtOH | 8.5 L | CCO | C2H6O
product | 2-(4-Chloro-phenyl)-4-ethoxycarbonylmethyl-thiazole-5-carboxylic acid ethyl ester | 1505 g, 81% | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C16H16ClNO4S
